US06011050
2-[1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-dimethylaminoisoindoline-1,3-dione was prepared by the procedure of Example 8 from 1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-methylsulfonylethylamine (1.0 g, 3.18 mmol) and 3-dimethylaminophthalic anhydride (608 mg, 3.18 mmol) in acetic acid (10 mL). The product was obtained as a yellow solid (780 mg, 50% yield): mp, 192.0-194.0 ° C.; 1H NMR (CDCl3) δ 1.61-1.64 & 1.82-2.00 (2 m's, 8H, C5H8), 2.79 (s, 3H, CH3), 3.08 (s, 6H, CH3), 3.81 (s, 3H, CH3), 3.82 (dd, J=5.5, 14.5 Hz, 1H, CHH), 4.52 (dd, J=9.8, 14.5 Hz, 1H, CHH), 4.75-4.81 (m, 1H, OCH), 5.87 (dd, J=5.0, 9.7 Hz, 1H, NCH), 6.80 (d, J=8.3 Hz, 1H, Ar), 7.03-7.26 (m, 3H, Ar), 7.47 (dd, J=7.3, 8.4 Hz, 1H, Ar); 13C NMR (CDCl3) δ 24.05, 32.75, 41.47, 43.37, 48.84, 55.36, 56.02, 80.55, 111.88, 113.74, 114.46, 114.71, 120.41, 122.04, 129.88, 134.39, 134.77, 147.91, 150.22, 150.39, 167.05, 168.13; Anal Calcd for C25H30N2O6S: C, 61.71; H, 6.21; N, 5.76. Found: C, 61.58; H, 6.06; N, 5.53.

reactant | 1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-methylsulfonylethylamine | 3.18 mmol, 1.0 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C15H23NO4S
reactant | 3-dimethylaminophthalic anhydride | 3.18 mmol, 608 mg | CN(C1=C2C(C(=O)OC2=O)=CC=C1)C | C10H9NO3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-[1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-dimethylaminoisoindoline-1,3-dione | C1(CCCC1)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)N(C)C)=O | C25H30N2O6S
